US07547701B2
An ice water bath cooled solution of L-cysteine in 1N sodium hydroxide (740 mL) and dioxane (740 mL) was treated with bromomethylcyclopropane (50 g, 370 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 16 h. Dioxane was removed under reduced pressure and the resulting aqueous solution was adjusted to pH 6 with 6N HCl and placed in a refrigerator for 20 h. The product was collected by vacuum filtration, washed with hexanes and lyophilized to give 2(R)-amino-3-cyclopropylmethylsulfanylpropionic acid (57.28 g) as a white solid.

reactant | L-cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | bromomethylcyclopropane | 370 mmol, 50 g | BrCC1CC1 | C4H7Br
solvent | sodium hydroxide | 1N, 740 mL | [OH-].[Na+]
solvent | dioxane | 740 mL | O1CCOCC1 | C4H8O2
product | 2(R)-amino-3-cyclopropylmethylsulfanylpropionic acid | 57.28 g | N[C@H](C(=O)O)CSCC1CC1 | C7H13NO2S
